US08071807B2
As described for Example 10, [3-(2-bromomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and 5-methyl-1,3,4-thiadiazole-2-thiol were reacted to form {4-methoxy-3-[2-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-4-nitro-phenoxy]-phenyl}-acetic acid ethyl ester, which was reduced to {3-[4-amino-2-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and then treated with 4-chlorobenzoyl chloride to provide {3-[4-(4-chloro-benzoylamino)-2-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester to the acid provided Compound 19.

reactant | {3-[4-amino-2-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CSC=1SC(=NN1)C)=O | C21H23N3O4S2
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | {3-[4-(4-chloro-benzoylamino)-2-(5-methyl-[1,3,4]thiadiazol-2-ylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CSC=1SC(=NN1)C)=O | C28H26ClN3O5S2
